US05190689
2-(11-Hydroxyundecyl)-hydroquinone obtained from 2-(10-carboxydecyl)-hydroquinone (prepared from p-benzo-quinone and methyl undec-10-enoate by using diborane and then carrying out hydrolysis) by reduction with lithium aluminium hydride is esterified with methacrylic acid to give 1-(11-methacryloyloxyundecyl)-hydroquinone.

reactant | p-benzo-quinone | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | methyl undec-10-enoate | C(CCCCCCCCC=C)(=O)OC | C12H22O2
reactant | diborane | B#B | B2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
product | 1-(11-methacryloyloxyundecyl)-hydroquinone | C(C(=C)C)(=O)OCCCCCCCCCCCC1(O)CC=C(O)C=C1 | C21H34O4
